US05834434
HCl-4-amino-3-methoxybenzoyl methionine methyl ester
N-BOC-4-amino-3-methoxybenzoyl methionine methyl ester (0.71 g, 1.79 mmol) was taken up in CH2Cl2 (4 ml) and precipitated with 3-4M HCl/ Et2O (12 ml). The precipitate was washed as usual with Et2O and dried overnight under vacuum to result in 0.55 g (88.3%) of reddish material. mp 176°-177° C.; 1H NMR (CD3OD) 2.08 (3 H, s) , 2.21 (2 H, m), 2.61 (2 H, m), 3.74 (3 H, s), 4.02 (3 H, s), 4.79 (1 H, m), 7.50 (1 H, d, J=8.2 Hz), 7.57 (1 H, d, J=4.1 Hz) 7.67 (1 H, s); 13C NMR (CD3OD) 15.26, 31.34, 31.42, 52.95, 53.38, 57.12, 112.29, 121.43, 124.57, 124.77, 136.15, 153.67, 168.79, 173.81.

reactant | N-BOC-4-amino-3-methoxybenzoyl methionine methyl ester | 1.79 mmol, 0.71 g | COC([C@@H](N(C(=O)OC(C)(C)C)C(C1=CC(=C(C=C1)N)OC)=O)CCSC)=O | C19H28N2O6S
reactant | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
product | HCl 4-amino-3-methoxybenzoyl methionine methyl ester | 0.55 g, 88.3% | Cl.COC([C@@H](NC(C1=CC(=C(C=C1)N)OC)=O)CCSC)=O | InChI=1S/C14H20N2O4S.ClH/c1-19-12-8-9(4-5-10(12)15)13(17)16-11(6-7-21-3)14(18)20-2;/h4-5,8,11H,6-7,15H2,1-3H3,(H,16,17);1H/t11-;/m0./s1
